US04844727
2-amino-4-chloro-6-pyrimidylacetonitrile
2-amino-4-chloro-6-cyano-pyrimidylacetate-t-butyl ester (100 g, 372.5 mmol) was suspended in dry acetonitrile (1.2 l) containing sodium iodide (55.84 g, 372.5 mmol) and warmed to 40° C. until the mixture became homogeneous. Then chlorotrimethylsilane (200 ml) was added and the orange suspension was heated at reflux. After 1 hour, TLC analysis (elute with 1:1 ethyl acetate/hexanes) indicated a complete reaction and the reaction was filtered and the filtrate was concentrated. The residue was diluted with ethyl acetate and washed with water and sodium bicarbonate solution and dried with magnesium sulfate. The crude product was slurried in activated carbon, filtered and concentrated to give 38.46 g of a green solid. This was again dissolved in ethyl acetate and passed through a 4-inch pad of silica gel and then concentrated to give the desired subject as a green solid, m.p. 110°-115° C. NMR (200 mHz) D6-acetone δ 6.8 (s, 1 H), 6.8-6.6 (bs, 1 H), 3.95 (s, 2 H).

reactant | 2-amino-4-chloro-6-cyano-pyrimidylacetate-t-butyl ester | 372.5 mmol, 100 g | C(C)(C)(C)OC(CC=1C(=NC(=NC1C#N)N)Cl)=O | C11H13ClN4O2
reactant | sodium iodide | 372.5 mmol, 55.84 g | [I-].[Na+]
reactant | chlorotrimethylsilane | 200 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | acetonitrile | 1.2 l | C(C)#N | C2H3N
product | 2-amino-4-chloro-6-pyrimidylacetonitrile | 38.46 g | NC1=NC(=CC(=N1)Cl)CC#N | C6H5ClN4
